Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins
 
Attending: ___.
 
Chief Complaint:
neck pain s/p fall
 
Major Surgical or Invasive Procedure:
None on this Admission
 
History of Present Illness:
___ male transferred from outside hospital for 
evaluation of cervical ___ fracture. Today the patient was 
attempting to use the bathroom and bent forward and fell hitting 
the back of his head. There was no loss of consciousness. The 
patient complains of headache and neck pain. The outside 
hospital the patient had the head laceration stapled. A CT scan 
did demonstrate the fracture. The patient denies any numbness, 
tingling in his arms or legs. No weakness in his arms or legs. 
Denies any bowel incontinence or bladder retention. No saddle 
anesthesia. Denies any chest pain, shortness of breath or 
abdominal pain.
  

 
Past Medical History:
PMH: a. fib, colon ca, htn, copd
  
MED: warfarin, allopurinol, asacol
  
ALL: pcn, sulfa

 
Social History:
___
Family History:
NC
 
Physical Exam:
C collar in place

UEC5C6C7C8T1
(lat arm)  (thumb) (mid fing) (sm finger) (med arm)
Rintact      intact        intact        intact        intact
Lintact      intact        intact        intact        intact

T2-L1 (Trunk) intact

___      L2        L3  L4  L5S1S2
(Groin)(Knee)    (Med Calf) (Grt Toe) (Sm Toe) (Post Thigh)
Rintactintactintactintact       intactintact
Lintactintactintactintact       intactintact

Motor:
UEDlt(C5)Bic(C6)WE(C6)Tri(C7)WF(C7)FF(C8)FinAbd(T1)
R   5   5    5    5    ___
L   5   5    5    5    ___

___  Flex(L1) Add(L2) Quad(L3)  TA(L4) ___ ___
R   ___    5    5    5       5      
L   ___    5    5    5    5

             
Babinski:  negative 
Clonus: not present
  

 
Brief Hospital Course:
Patient was admitted to the ___ ___ Surgery Service for 
observation after a C2 fracture.  TEDs/pnemoboots were used for 
postoperative DVT prophylaxis.  Diet was advanced as tolerated.  
The patient was tolerated oral pain medication. Physical therapy 
was consulted for mobilization OOB to ambulate.  He remained 
hypertensive from 160 - >180.  Medicine consult appreciated - 
felt this was long standing.  recommended PRN antihypertensives 
but cautioned against bringing pressure too low too quickly.  
Hospital course was otherwise unremarkable.  On the day of 
discharge the patient was afebrile with stable vital signs, 
comfortable on oral pain control and tolerating a regular diet. 
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4H:PRN pain, temp >100.5, headache 
2. Allopurinol ___ mg PO DAILY 
3. Mesalamine ___ 400 mg PO TID 
4. Metoprolol Tartrate 25 mg PO BID 
5. Omeprazole 20 mg PO DAILY 
6. Warfarin 1 mg PO DAILY 
7. OxycoDONE (Immediate Release)  2.5-5 mg PO Q4H:PRN pain 
8. Diazepam 2 mg PO Q12H:PRN spasms 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
C2 fracture
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You have undergone the following operation: Anterior Cervical 
Decompression and Fusion

Immediately after the operation:
-Activity: You should not lift anything greater than 5 lbs for 
2 weeks. You will be more comfortable if you do not sit in a car 
or chair for more than ~45 minutes without getting up and 
walking around.

-Rehabilitation/ Physical Therapy: 
o2-3 times a day you should go for a walk for ___ minutes as 
part of your recovery.  You can walk as much as you can 
tolerate.  
oIsometric Extension Exercise in the collar: 2x/day x ___xercises as instructed.

-Swallowing: Difficulty swallowing is not uncommon after this 
type of surgery. This should resolve over time.  Please take 
small bites and eat slowly.  Removing the collar while eating 
can be helpful  however, please limit your movement of your 
neck if you remove your collar while eating.

-Cervical Collar / Neck Brace: You need to wear the brace at 
all times until your follow-up appointment which should be in 2 
weeks.  You may remove the collar to take a shower.  Limit your 
motion of your neck while the collar is off. Place the collar 
back on your neck immediately after the shower.

-Wound Care: Monitor laceration at scalp for drainage/redness.  
Your PCP may take these staples out.

-You should resume taking your normal home medications.

-You have also been given Additional Medications to control 
your pain.  Please allow 72 hours for refill of narcotic 
prescriptions, so plan ahead.  You can either have them mailed 
to your home or pick them up at the clinic located on ___. 
 We are not allowed to call in narcotic (oxycontin, oxycodone, 
percocet) prescriptions to the pharmacy.   In addition, we are 
only allowed to write for pain medications for 90 days from the 
date of surgery.

-Follow up:
oPlease Call the office ___ and make an appointment 
with Dr. ___ 2 weeks after the day of your operation if 
this has not been done already.
oAt the 2-week visit we will check your incision, take baseline 
x rays and answer any questions.
oWe will then see you at 6 weeks from the day of the operation. 
At that time we will most likely obtain Flexion/Extension X-rays 
and often able to place you in a soft collar which you will wean 
out of over 1 week.  

Please call the office if you have a fever>101.5 degrees 
Fahrenheit, drainage from your wound, or have any questions.

Physical Therapy:
activity as tolerated
C-collar full time for 12 weeks
may use ambulatory assistive devices for safety
no  bending twisting, or lifting >5lbs
Treatment Frequency:
monitor skin at chin and back of head for breakdown in C-collar
 
Followup Instructions:
___